US04207104
3-Methoxy-5-Nitro-2-Pyridone
Sodium hydroxide (8.6 g, 0.215 mole) and 2,3-dihydroxypyridine (22.0 g, 0.20 mole) were added to distilled water (75 ml). After cooling to 5° C., dimethylsulfate (25.0 g, 0.21 mole) was added dropwise; the reaction mixture was stirred for 20 hours while slowly warming to room temperature. The water was removed in vacuo (approximately 65° C.) to obtain a syrup which was dissolved in concentrated sulfuric acid (50 to 60 ml) at 5° C. A cold mixture of concentrated nitric acid (20 ml) in concentrated sulfuric acid (20 ml) was added at a rate to maintain the reaction mixture between 10° to 15° C. After the addition was complete, the mixture was stirred for 30 minutes at 5° C. and then poured onto ice (approximately 400 ml). The resulting red precipitate was collected by filtration and recrystallized from water; yield, 5.8 g (17 percent).

reactant | Sodium hydroxide | 0.215 mole, 8.6 g | [OH-].[Na+]
reactant | 2,3-dihydroxypyridine | 0.20 mole, 22.0 g | OC1=NC=CC=C1O | C5H5NO2
reactant | dimethylsulfate | 0.21 mole, 25.0 g | COS(=O)(=O)OC | C2H6O4S
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 to 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Methoxy-5-Nitro-2-Pyridone | COC=1C(NC=C(C1)[N+](=O)[O-])=O | C6H6N2O4
